US08754226B2
A solution of ((S)-3-amino-1-(1-(5-ethylpyrimidin-2-yl)piperidin-4-yl)pyrrolidin-2-one (100 mg, 0.35 mmol), 1,2-difluoro-4-(ethylsulfonyl)benzene (0.2 g, 1.0 mmol), and Na2CO3 (110 mg, 1.0 mmol) in DMSO (2 mL) was stirred at 130° C. for 18 hours. The reaction mixture was poured into water (100 mL) and extracted with EtOAc (3×100 mL). The combined organic layers were washed with brine and dried over MgSO4, filtered and concentrated in vacuo. The crude material was purified over silica gel (10% methanol in EtOAc) to yield (S)-1-(1-(5-ethylpyrimidin-2-yl)piperidin-4-yl)-3-(4-(ethylsulfonyl)-2-fluorophenylamino)pyrrolidin-2-one (50 mg, 0.11 mmol, 30%). Mass spectrum (apci) m/z=476.3 (M+H).

reactant | (S)-3-amino-1-(1-(5-ethylpyrimidin-2-yl)piperidin-4-yl)pyrrolidin-2-one | 0.35 mmol, 100 mg | N[C@@H]1C(N(CC1)C1CCN(CC1)C1=NC=C(C=N1)CC)=O | C15H23N5O
reactant | 1,2-difluoro-4-(ethylsulfonyl)benzene | 1.0 mmol, 0.2 g | FC1=C(C=C(C=C1)S(=O)(=O)CC)F | C8H8F2O2S
reactant | Na2CO3 | 1.0 mmol, 110 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 100 mL | O | H2O
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | (S)-1-(1-(5-ethylpyrimidin-2-yl)piperidin-4-yl)-3-(4-(ethylsulfonyl)-2-fluorophenylamino)pyrrolidin-2-one | 0.11 mmol, 50 mg, 30% | C(C)C=1C=NC(=NC1)N1CCC(CC1)N1C([C@H](CC1)NC1=C(C=C(C=C1)S(=O)(=O)CC)F)=O | C23H30FN5O3S
